US07371748B2
2-Chloromethyl-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide was prepared from 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine and and 2-chloromethyl-isonicotinic acid in exact the same manner as described for 5-methyl-thiophene-2-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide. Light yellow solid (60% yield). MS: m/e=419(M+H+).

reactant | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)C2CCOCC2 | C13H16N2O2S
reactant | 2-chloromethyl-isonicotinic acid | ClCC=1C=C(C(=O)O)C=CN1 | C7H6ClNO2
reactant | 5-methyl-thiophene-2-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC | C19H20N2O4S2
product | 2-Chloromethyl-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide | ClCC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1 | C20H20ClN3O3S
